US09120819B2
Stage B: Methyl 2-amino-5-({2-methyl-1-[(3-{2-[(methylsulphonyl)oxy]ethoxy}benzoyl)amino]indoliz in-3-yl}carbonyl)benzoate
59 μl (0.77 mmol) of mesyl chloride are added to the solution of 0.34 g (0.69 mmol) of methyl 2-amino-5-[(1-{[3-(2-hydroxyethoxy)benzoyl]amino}-2-methylindolizin-3-yl)carbonyl]benzoate in 9 ml of pyridine at −20° C. under nitrogen. The reaction mixture is stirred for 2 hours at −20° C. and is then run into 100 ml of water. The precipitate obtained is filtered, washed thoroughly with water and dried under vacuum, to give 268 mg (70%) of a yellow powder.

reactant | mesyl chloride | 0.77 mmol, 59 μl | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | methyl 2-amino-5-[(1-{[3-(2-hydroxyethoxy)benzoyl]amino}-2-methylindolizin-3-yl)carbonyl]benzoate | 0.69 mmol, 0.34 g | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)NC(C1=CC(=CC=C1)OCCO)=O)C | C27H25N3O6
reactant | water | 100 ml | O | H2O
solvent | pyridine | 9 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 2-amino-5-({2-methyl-1-[(3-{2-[(methylsulphonyl)oxy]ethoxy}benzoyl)amino]indoliz in-3-yl}carbonyl)benzoate | 268 mg, 70% | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)NC(C1=CC(=CC=C1)OCCOS(=O)(=O)C)=O)C | C28H27N3O8S
